*
*
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	750315240		1  2  3  6  5  4		
.param RxLkg=532.24ohm					
.param Leakage=0.72uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	182.64uH	Rser=70mohm	
Lpri2	2a	3	182.64uH	Rser=70mohm	
Lsec1	6	5	225.926uH	Rser=62mohm	
Lsec2	5	4	225.926uH	Rser=62mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=12.5pf					
.param Cprm2=12.5pf					
.param Rdmp1=135277.82ohm					
.param Rdmp2=135277.82ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316031		1  2  3  6  5  4		
.param RxLkg=236.03ohm					
.param Leakage=0.38uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	119.81uH	Rser=64mohm	
Lpri2	2a	3	119.81uH	Rser=64mohm	
Lsec1	6	5	367.5uH	Rser=140mohm	
Lsec2	5	4	367.5uH	Rser=140mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=27pf					
.param Cprm2=27pf					
.param Rdmp1=74535.67ohm					
.param Rdmp2=74535.67ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316032		1  2  3  6  5  4		
.param RxLkg=198.95ohm					
.param Leakage=0.38uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	119.81uH	Rser=64mohm	
Lpri2	2a	3	119.81uH	Rser=64mohm	
Lsec1	6	5	480uH	Rser=160mohm	
Lsec2	5	4	480uH	Rser=160mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=38pf					
.param Cprm2=38pf					
.param Rdmp1=62827.83ohm					
.param Rdmp2=62827.83ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316033		1  2  3  6  5  4		
.param RxLkg=721.69ohm					
.param Leakage=0.5uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	119.75uH	Rser=64mohm	
Lpri2	2a	3	119.75uH	Rser=64mohm	
Lsec1	6	5	67.5uH	Rser=42mohm	
Lsec2	5	4	67.5uH	Rser=42mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=5pf					
.param Cprm2=5pf					
.param Rdmp1=173204.8ohm					
.param Rdmp2=173204.8ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					
